US06248755B1
Step B: 4-(2-Phenyl-thiazol-5-yl)-piperidine
To 55 mg of 1-benzoyl-4-(2-phenyl-thiazol-5-yl)-piperidine in 4.5 ml of MeOH and 0.5 ml of H2O was added 354 mg of potassium hydroxide. The reaction was stirred at 70° C. overnight. The reaction was then cooled to room temperature and 20 ml of H2O was added. This aqueous layer was extracted with 4×25 ml EtOAc. The combined organic phases were dried over MgSO4 and concentrated under reduced pressure to give 25 mg of the title compound.

reactant | 1-benzoyl-4-(2-phenyl-thiazol-5-yl)-piperidine | 55 mg | C(C1=CC=CC=C1)(=O)N1CCC(CC1)C1=CN=C(S1)C1=CC=CC=C1 | C21H20N2OS
reactant | potassium hydroxide | 354 mg | [OH-].[K+]
solvent | MeOH | 4.5 ml | CO | CH4O
solvent | H2O | 0.5 ml | O | H2O
solvent | H2O | 20 ml | O | H2O
product | 4-(2-Phenyl-thiazol-5-yl)-piperidine | 25 mg | C1(=CC=CC=C1)C=1SC(=CN1)C1CCNCC1 | C14H16N2S
